US09399623B2
Step 2. 6-Chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (1-hydroxy-3-methyl-cyclohexylmethyl)-amide
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (1-hydroxy-3-methylcyclo hexyl methyl)-amide, palladium on carbon and triethylsilane.

reactant | 6-chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (1-hydroxy-3-methylcyclo hexyl methyl)-amide | OC1(CC(CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CC(CC1)=O | C23H25ClN2O3
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (1-hydroxy-3-methyl-cyclohexylmethyl)-amide | OC1(CC(CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O | C23H27ClN2O3
